US04054653
A mixture of 10 g. (0.0348 mole) of 3-(α-iminobenzyl)-4-hydroxy-6-phenyl-1-methyl-2(1H)-pyridone and 7.3 g. (0.0724 mole) triethylamine in 200 ml. toluene is treated portionwise with 30 ml. (27.8 g., 0.0348 mole) of a 12.5% solution of phosgene in benzene. The resulting mixture becomes warm and the solids are separated out. The mixture is then stirred at room temperture for 18 hours and then poured onto water and filtered. The solids are washed with toluene. The toluene and water filtrate is separated and the toluene dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The resulting solid is recrystallized with hot toluene to give 6-methyl-4,7-diphenyl-2H-pyrido[3,4-e]-1,3-oxazine-2,5-dione, m.p. 178°-179° C.

reactant | 3-(α-iminobenzyl)-4-hydroxy-6-phenyl-1-methyl-2(1H)-pyridone | 0.0348 mole | N=C(C1=CC=CC=C1)C=1C(N(C(=CC1O)C1=CC=CC=C1)C)=O | C19H16N2O2
reactant | triethylamine | 0.0724 mole | C(C)N(CC)CC | C6H15N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-methyl-4,7-diphenyl-2H-pyrido[3,4-e]-1,3-oxazine-2,5-dione | CN1C(C=2C(=NC(OC2C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C20H14N2O3
